US07030116B2
3-Phenylmethanesulfonyl-N-[(S)-1-(5-phenyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-2-(tetrahydro-pyran-4-yloxymethyl)-propionamide
It is similarly prepared according to general procedure given for Example 1 above but using 2-Phenylmethanesulfonylmethyl-3-(tetrahydro-pyran-4-yloxy)-propionic acid and (S)-2-amino-1-(5-phenyl-1,2,4-oxadiazol-3-yl)-butan-1-ol.

reactant | 2-Phenylmethanesulfonylmethyl-3-(tetrahydro-pyran-4-yloxy)-propionic acid | C1(=CC=CC=C1)CS(=O)(=O)CC(C(=O)O)COC1CCOCC1 | C16H22O6S
reactant | (S)-2-amino-1-(5-phenyl-1,2,4-oxadiazol-3-yl)-butan-1-ol | NC([C@H](O)C1=NOC(=N1)C1=CC=CC=C1)CC | C12H15N3O2
product | 3-Phenylmethanesulfonyl-N-[(S)-1-(5-phenyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-2-(tetrahydro-pyran-4-yloxymethyl)-propionamide | C1(=CC=CC=C1)CS(=O)(=O)CC(C(=O)N[C@@H](CC)C(=O)C1=NOC(=N1)C1=CC=CC=C1)COC1CCOCC1 | C28H33N3O7S
